US04859684
To a stirred sodium methoxide solution previously prepared starting from 0.46 parts of sodium and 32 parts of methanol were added 6.16 parts of 6-(1H-imidazol-1-ylmethyl)-2-phenyl-1H-benzimidazol-1-ol. After stirring for a while, the whole was concentrated and 2 portions of 18 parts of methylbenzene were added. After evaporation, there were added successively 27 parts of N,N-dimethylformamide and a solution of 2.84 parts of iodomethane in 9 parts of N,N-dimethylformamide. The whole was stirred first for 10 minutes at room temperature and then for 30 minutes at 60° C. The reaction mixture was evaporated and 50 parts of water were added to the residue. The precipitated product was filtered off, washed with water and purified by filtration over silica gel using a mixture of trichloromethane and methanol (92.5:7.5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2,2'-oxybisproprane. The product was filtered off and dried, yielding 5.4 parts (88.7%) of 6-(1H-imidazol-1-ylmethyl)-1-methoxy-2-phenyl-1H-benzimidazole; mp. 142.1° C. (compound 227).

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | [Na] | Na
reactant | 6-(1H-imidazol-1-ylmethyl)-2-phenyl-1H-benzimidazol-1-ol | N1(C=NC=C1)CC=1C=CC2=C(N(C(=N2)C2=CC=CC=C2)O)C1 | C17H14N4O
solvent | methanol | CO | CH4O
product | 6-(1H-imidazol-1-ylmethyl)-1-methoxy-2-phenyl-1H-benzimidazole | 88.7% | N1(C=NC=C1)CC=1C=CC2=C(N(C(=N2)C2=CC=CC=C2)OC)C1 | C18H16N4O
